US07358394B2
The reaction was carried out in the same manner as in Example 3 except for changing ethanol to dimethylformamide in Example 3. As a result, 1.16 g (Reaction yield: 77.5%) of N,N′-dimethoxy-N,N′-dimethyl oxamide was found to be formed.

reactant | ethanol | C(C)O | C2H6O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N′-dimethoxy-N,N′-dimethyl oxamide | 1.16 g, yield: 77.5% | CON(C(=O)C(=O)N(C)OC)C | C6H12N2O4
